US05750520
N-t-Butoxycarbonyl-3-(2-cyano-4-pyridyl)-(S)-alanine
1M Aqueous sodium hydroxide solution (10.8 ml, 10.8 mmol) was added dropwise over 5 minutes to a stirred, ice-cooled solution of N-t-butoxycarbonyl-3-(2-cyano-4-pyridyl)-(S)-alanine benzyl ester (Preparation 12; 2.73 g, 7.1 mmol) in 1,4-dioxan and the resulting solution allowed to warm to room temperature. After 1.5 hours, the pH of the solution was adjusted to 9 using 2M hydrochloric acid and the bulk of the organic solvent removed under reduced pressure. The residual aqueous solution was washed with ethyl acetate, acidified with solid citric acid and extracted with ethyl acetate, then the latter extracts dried (MgSO4) and evaporated under reduced pressure to furnish the title compound (1.6 g) as a white solid. Rf 0.67 (SS 13). Found: C,57.86; E,5.99; N,13.52. C14H17N3O4 requires C,57.72; E,5.88; N,14.42%.

reactant | sodium hydroxide | 10.8 mmol, 1M, 10.8 ml | [OH-].[Na+]
reactant | N-t-butoxycarbonyl-3-(2-cyano-4-pyridyl)-(S)-alanine benzyl ester | 7.1 mmol, 2.73 g | C(C1=CC=CC=C1)OC([C@@H](NC(=O)OC(C)(C)C)CC1=CC(=NC=C1)C#N)=O | C21H23N3O4
reactant | hydrochloric acid | 2M | Cl | ClH
solvent | 1,4-dioxan | O1CCOCC1 | C4H8O2
product | N-t-Butoxycarbonyl-3-(2-cyano-4-pyridyl)-(S)-alanine | 1.6 g | C(C)(C)(C)OC(=O)N[C@@H](CC1=CC(=NC=C1)C#N)C(=O)O | C14H17N3O4
